US06432976B1
(±)-8-Benzyl-8-aza-bicyclo[3.2.1]octan-2-one Ethylene Acetal
The procedure described in Synth. Commun., 25:3681-3690 (1995) to prepare the analogous 8-methyl compounds was used. In a three-neck flask equipped with a thermometer, an argon inlet, and a powder funnel were placed sodium hydrogenphosphate (dibasic) (7.10g, 50.0 mmol), and dry methanol (8 mL). A solution of (±)-6-benzenesulfonyl-8-benzyl-8-aza-bicyclo[3.2.1]octan-2-one ethylene acetal (J. Heterocyclic Chem., 34:1139-1146(1997) (2.00 g, 5.0 mmol) in tetrahydrofuran (16 mL) was added. Sodium mercury amalgam (20% sodium) (5 g) was added portionwise with stirring at such a rate as to keep the temperature below 50° C. The mixture was stirred an additional 1.5 h at ambient temperature. The organic solution was decanted away from the inorganic residue. The inorganic residue was washed with tetrahydrofuran (3×8 mL). The combined organic portion was concentrated under reduced pressure. The residue was dissolved in water (32 mL) and extracted with dichloromethane (4×16 mL). The combined extract was washed with brine (20 mL), dried (sodium sulfate), filtered, and the solvent was evaporated under reduced pressure to give crude product (1.21 g, 89%) as an oil.

reactant | sodium hydrogenphosphate | 50.0 mmol, 7.10g | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | methanol | 8 mL | CO | CH4O
reactant | (±)-6-benzenesulfonyl-8-benzyl-8-aza-bicyclo[3.2.1]octan-2-one ethylene acetal | C1COC2(C3CC(C(CC2)N3CC3=CC=CC=C3)S(=O)(=O)C3=CC=CC=C3)O1 | C22H25NO4S
solvent | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
catalyst | Sodium mercury amalgam | 5 g | [Na].[Hg]
product | (±)-8-Benzyl-8-aza-bicyclo[3.2.1]octan-2-one Ethylene Acetal | 1.21 g, 89% | C1COC2(C3CCC(CC2)N3CC3=CC=CC=C3)O1 | C16H21NO2
